US06372895B1
A mixture of 2-furanacetonitrile (6.14 g), KOH (4.0 g), and water (25 mL) was refluxed for 1 hour and then cooled. Following extraction with ether, the aqueous layer was acidified to pH 2.0 with concentrated aqueous HCl. This solution was extracted with ether, and the organic phase was dried over MgSO4 and evaporated under vacuum to yield 2-furanacetic acid. The structure of the product was confirmed by NMR.

reactant | 2-furanacetonitrile | 6.14 g | O1C(=CC=C1)CC#N | C6H5NO
reactant | KOH | 4.0 g | [OH-].[K+]
reactant | water | 25 mL | O | H2O
product | 2-furanacetic acid | O1C(=CC=C1)CC(=O)O | C6H6O3
